US07282588B2
4-[1-(1,1-dimethylethyl)-5-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine
Following the procedure described for Intermediate 6 with 1-(1,1-dimethylethyl)-5-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole, provided the title compound. ESMS [M+H]+: 362.2

reactant | 1-(1,1-dimethylethyl)-5-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC(C)(C)N1N=CC(=C1C1=CC=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C19H26BN3O4
reactant | 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H22BN3O4
product | 4-[1-(1,1-dimethylethyl)-5-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine | CC(C)(C)N1N=CC(=C1C1=CC=C(C=C1)[N+](=O)[O-])C1=C2C(=NC=C1)NC=C2 | C20H19N5O2
